.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HQ-2N5
* Inductance = 2.5nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-19.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HQ-2N5_freq port1 port2 PARAMS: Cpar=0.029pF Ind=2.7nH
X1 port1 port2 Model2A PARAMS:
+ R1=6
+ R2=0.02
+ C= {Cpar}
+ K1=0.0000069
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13446.48986
.ends 0805HQ-2N5_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HQ-2N5
* Inductance = 2.5nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-19.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0805HQ-2N5_imp port1 port2 PARAMS: Cpar=0.029pF Ind=2.7nH
X1 port1 port2 Model1D PARAMS:
+ R1=6
+ R2=0.02
+ C= {Cpar}
+ K1=0.0000069
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13446.48986
.ends 0805HQ-2N5_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HQ-5N6
* Inductance = 5.6nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-11GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HQ-5N6_freq port1 port2 PARAMS: Cpar=0.044pF Ind=5.8nH
X1 port1 port2 Model2A PARAMS:
+ R1=7
+ R2=0.04
+ C= {Cpar}
+ K1=0.0000119
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=16102.49334
.ends 0805HQ-5N6_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HQ-5N6
* Inductance = 5.6nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-11GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0805HQ-5N6_imp port1 port2 PARAMS: Cpar=0.044pF Ind=5.8nH
X1 port1 port2 Model1D PARAMS:
+ R1=7
+ R2=0.04
+ C= {Cpar}
+ K1=0.0000119
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=16102.49334
.ends 0805HQ-5N6_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HQ-6N2
* Inductance = 6.2nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-10.1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HQ-6N2_freq port1 port2 PARAMS: Cpar=0.056pF Ind=6.4nH
X1 port1 port2 Model2A PARAMS:
+ R1=8
+ R2=0.04
+ C= {Cpar}
+ K1=0.0000115
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12625.71837
.ends 0805HQ-6N2_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HQ-6N2
* Inductance = 6.2nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-10.1GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0805HQ-6N2_imp port1 port2 PARAMS: Cpar=0.056pF Ind=6.4nH
X1 port1 port2 Model1D PARAMS:
+ R1=8
+ R2=0.04
+ C= {Cpar}
+ K1=0.0000115
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12625.71837
.ends 0805HQ-6N2_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HQ-12N
* Inductance = 12nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-5.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HQ-12N_freq port1 port2 PARAMS: Cpar=0.09pF Ind=12.2nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.05
+ C= {Cpar}
+ K1=0.000025
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=11558.18645
.ends 0805HQ-12N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HQ-12N
* Inductance = 12nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-5.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0805HQ-12N_imp port1 port2 PARAMS: Cpar=0.09pF Ind=12.2nH
X1 port1 port2 Model1D PARAMS:
+ R1=10
+ R2=0.05
+ C= {Cpar}
+ K1=0.000025
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=11558.18645
.ends 0805HQ-12N_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HQ-16N
* Inductance = 16nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-5.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HQ-16N_freq port1 port2 PARAMS: Cpar=0.064pF Ind=16.5nH
X1 port1 port2 Model2A PARAMS:
+ R1=11
+ R2=0.06
+ C= {Cpar}
+ K1=0.0000262
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=20093.83348
.ends 0805HQ-16N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HQ-16N
* Inductance = 16nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-5.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0805HQ-16N_imp port1 port2 PARAMS: Cpar=0.064pF Ind=16.5nH
X1 port1 port2 Model1D PARAMS:
+ R1=11
+ R2=0.06
+ C= {Cpar}
+ K1=0.0000262
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=20093.83348
.ends 0805HQ-16N_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HQ-18N
* Inductance = 18nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HQ-18N_freq port1 port2 PARAMS: Cpar=0.079pF Ind=18.6nH
X1 port1 port2 Model2A PARAMS:
+ R1=12
+ R2=0.06
+ C= {Cpar}
+ K1=0.0000283
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=17037.4439
.ends 0805HQ-18N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HQ-18N
* Inductance = 18nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-5GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0805HQ-18N_imp port1 port2 PARAMS: Cpar=0.079pF Ind=18.6nH
X1 port1 port2 Model1D PARAMS:
+ R1=12
+ R2=0.06
+ C= {Cpar}
+ K1=0.0000283
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=17037.4439
.ends 0805HQ-18N_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HQ-20N
* Inductance = 20nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HQ-20N_freq port1 port2 PARAMS: Cpar=0.128pF Ind=20.5nH
X1 port1 port2 Model2A PARAMS:
+ R1=11
+ R2=0.06
+ C= {Cpar}
+ K1=0.0000338
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12435.50295
.ends 0805HQ-20N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HQ-20N
* Inductance = 20nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0805HQ-20N_imp port1 port2 PARAMS: Cpar=0.128pF Ind=20.5nH
X1 port1 port2 Model1D PARAMS:
+ R1=11
+ R2=0.06
+ C= {Cpar}
+ K1=0.0000338
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12435.50295
.ends 0805HQ-20N_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HQ-27N
* Inductance = 27nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HQ-27N_freq port1 port2 PARAMS: Cpar=0.093pF Ind=27nH
X1 port1 port2 Model2A PARAMS:
+ R1=14
+ R2=0.07
+ C= {Cpar}
+ K1=0.0000434
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=17659.40203
.ends 0805HQ-27N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HQ-27N
* Inductance = 27nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0805HQ-27N_imp port1 port2 PARAMS: Cpar=0.093pF Ind=27nH
X1 port1 port2 Model1D PARAMS:
+ R1=14
+ R2=0.07
+ C= {Cpar}
+ K1=0.0000434
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=17659.40203
.ends 0805HQ-27N_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HQ-30N
* Inductance = 30nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HQ-30N_freq port1 port2 PARAMS: Cpar=0.137pF Ind=30nH
X1 port1 port2 Model2A PARAMS:
+ R1=12
+ R2=0.1
+ C= {Cpar}
+ K1=0.0000458
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=15337.7793
.ends 0805HQ-30N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HQ-30N
* Inductance = 30nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0805HQ-30N_imp port1 port2 PARAMS: Cpar=0.137pF Ind=30nH
X1 port1 port2 Model1D PARAMS:
+ R1=12
+ R2=0.1
+ C= {Cpar}
+ K1=0.0000458
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=15337.7793
.ends 0805HQ-30N_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HQ-39N
* Inductance = 39nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HQ-39N_freq port1 port2 PARAMS: Cpar=0.117pF Ind=39nH
X1 port1 port2 Model2A PARAMS:
+ R1=13
+ R2=0.11
+ C= {Cpar}
+ K1=0.0000629
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=20770.02023
.ends 0805HQ-39N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HQ-39N
* Inductance = 39nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0805HQ-39N_imp port1 port2 PARAMS: Cpar=0.117pF Ind=39nH
X1 port1 port2 Model1D PARAMS:
+ R1=13
+ R2=0.11
+ C= {Cpar}
+ K1=0.0000629
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=20770.02023
.ends 0805HQ-39N_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HQ-48N
* Inductance = 48nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.6GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HQ-48N_freq port1 port2 PARAMS: Cpar=0.116pF Ind=48nH
X1 port1 port2 Model2A PARAMS:
+ R1=13
+ R2=0.1
+ C= {Cpar}
+ K1=0.0000759
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=25075.88513
.ends 0805HQ-48N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HQ-48N
* Inductance = 48nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.6GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0805HQ-48N_imp port1 port2 PARAMS: Cpar=0.116pF Ind=48nH
X1 port1 port2 Model1D PARAMS:
+ R1=13
+ R2=0.1
+ C= {Cpar}
+ K1=0.0000759
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=25075.88513
.ends 0805HQ-48N_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HQ-51N
* Inductance = 51nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HQ-51N_freq port1 port2 PARAMS: Cpar=0.116pF Ind=51nH
X1 port1 port2 Model2A PARAMS:
+ R1=11
+ R2=0.12
+ C= {Cpar}
+ K1=0.000088
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=29309.16749
.ends 0805HQ-51N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HQ-51N
* Inductance = 51nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0805HQ-51N_imp port1 port2 PARAMS: Cpar=0.116pF Ind=51nH
X1 port1 port2 Model1D PARAMS:
+ R1=11
+ R2=0.12
+ C= {Cpar}
+ K1=0.000088
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=29309.16749
.ends 0805HQ-51N_imp

